US04506368
Isonicotinic acid (24.93 g., 0.0938 mole) and thionyl chloride (50 ml) was refluxed for 1 hour. The crude acid chloride which remained after removal of excess thionyl chloride at diminished pressure was dissolved in dry pyridine (200 ml) and p-methoxy phenacylammonium chloride (19.00 g, 0.938 mole) was added portion wise to the stirred solution. During the addition, an exotherm occurred which raised the temperature of the stirred mixture to 40° C. After the addition was completed, the reaction mixture was heated and stirred on a boiling water bath for 2 hours and then poured into ice-water to precipitate the product. The solid was collected and dried under reduced pressure to give 12.07 g. (yield 48%) of α-isonicotinamido-p-methoxyacetophenone m.p. 227°-230° C. (with decomposition).

reactant | Isonicotinic acid | 0.0938 mole, 24.93 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | p-methoxy phenacylammonium chloride | 0.938 mole, 19.00 g | [Cl-].COC1=CC=C(C(C[NH3+])=O)C=C1
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | α-isonicotinamido-p-methoxyacetophenone | yield 48% | C(C1=CC=NC=C1)(=O)NCC(=O)C1=CC=C(C=C1)OC | C15H14N2O3
